US07312236B2
Under a nitrogen atmosphere, dissolve 2,6-dibromopyridine (10 g, 42.4 mmol) in anhydrous DCM (250 mL). Cool to −78° C. Add a solution of n-BuLi (1.6 M in hexanes) (29 mL, 46.2 mmol) very slowly via a syringe. After the addition, stir the reaction at −78° C. for 1 hr. Add a solution of 4-dimethylamino-cyclohexanone (5.4 g, 38.5 mmol) in anhydrous DCM (10 mL) dropwise to the reaction mixture via a syringe. Stir the reaction at −78° C. for 90 min. then allow to slowly warm to room temperature over 4 hr. Quench the reaction with saturated NaHCO3 solution. Dilute with more DCM, wash with more saturated NaHCO3 solution. Separate the organic layer, dry over anhydrous sodium sulfate, then evaporate the solvent under reduced pressure. Purify the residue by chromatography (silica gel, 6% 2M NH3-MeOH in DCM) to yield the desired 1-(6-bromo-pyridin-2-yl)-4-dimethylamino-cyclohexanol as a mixture of diastereomers (7.7 g, 67% yield): MS (ES): m/z=299 (M+H)+.

reactant | 2,6-dibromopyridine | 42.4 mmol, 10 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-BuLi | 46.2 mmol, 1.6 M, 29 mL | [Li]CCCC
reactant | 4-dimethylamino-cyclohexanone | 38.5 mmol, 5.4 g | CN(C1CCC(CC1)=O)C | C8H15NO
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-bromo-pyridin-2-yl)-4-dimethylamino-cyclohexanol | 67% yield | BrC1=CC=CC(=N1)C1(CCC(CC1)N(C)C)O | C13H19BrN2O
